US08017611B2
1-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-1-piperidyl]-2-methoxy-ethanone
2-methoxyacetyl chloride (0.033 ml) was added in one portion to a stirred ice-cooled suspension of 3-(1,3-benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine (100 mg) and N-benzyl-N-isopropyl-propan-2-amine on polystyrene (185 mg, 3 mmol/g) in dichloromethane (5 ml) and THF (5 ml). The resulting suspension was stirred at room temperature for 2 hours. The resin was filtered, rinsed with dichloromethane/methanol. The filtrate was concentrated to dryness. The crude product was purified by flash chromatography on silica gel eluting with 0 to 4% methanol in dichloromethane. After evaporation of the solvants, the resulting solid was triturated in acetonitrile to give the title compound (79 mg). NMR Spectrum: (CDCl3): 1.97-2.11 (m, 2H), 2.22-2.35 (m, 2H), 2.80-2.91 (m, 1H), 3.17-3.29 (m, 1H), 3.46 (s, 3H), 4.06-4.23 (m, 3H), 4.38-4.47 (m, 1H), 4.69-4.80 (m, 1H), 7.08 (bs, 2H), 7.35-7.42 (m, 2H), 7.58-7.63 (m, 1H), 7.69 (s, 1H), 7.73-7.78 (m, 1H), 7.80 (s, 1H), 8.35 (d, 1H), 8.41 (d, 1H); Mass spectrum: M+H+ 433.

reactant | 2-methoxyacetyl chloride | 0.033 ml | COCC(=O)Cl | C3H5ClO2
reactant | 3-(1,3-benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 100 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCNCC2)N | C20H20N6O
reactant | N-benzyl-N-isopropyl-propan-2-amine | C(C1=CC=CC=C1)N(C(C)C)C(C)C | C13H21N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-1-piperidyl]-2-methoxy-ethanone | 79 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)C1CCN(CC1)C(COC)=O)C=1OC2=C(N1)C=CC=C2 | C23H24N6O3
